US06887997B2
A solution of 2.7 g acyclovir, 70 mL DMF, and 800 mg sodium hydride (80%) was stirred at room temperature for 15 min, then 4 g 2,4′-dibromo-acetophenone was added into the solution. The solution was stirred at room temperature for 3 hr, added 15 mL ammonia, and was continuously stirred overnight. The solvent was removed to obtain a residue, which was washed with 50 mL of water and acetone to produce a product, 3-(2-hydroxy-ethoxymethyl)-6-(4-bromophenyl)-3,5-dihydro-1,3,4,5,7a-pentaaza-s-indacen-8-one, 2.55 g (yellow, yield 53%).

reactant | acyclovir | 2.7 g | C1=NC2=C(N1COCCO)N=C(N=C2O)N | C8H11N5O3
reactant | sodium hydride | 800 mg | [H-].[Na+]
reactant | 2,4′-dibromo-acetophenone | 4 g | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | ammonia | 15 mL | N | H3N
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 3-(2-hydroxy-ethoxymethyl)-6-(4-bromophenyl)-3,5-dihydro-1,3,4,5,7a-pentaaza-s-indacen-8-one | yield 53% | OCCOCN1C=NC=2C(N3C=C(NC3=NC12)C1=CC=C(C=C1)Br)=O | C16H14BrN5O3
